US03946059
Bis-[γ-(triethoxysilyl)-propyl]-trisulfide
47.5 g of bis-[γ-(triethoxysilyl)-propyl]-disulfide (0.1 mole) was heated together with 3.2 g of sulfur (0.1 mole) under a nitrogen gas atmosphere for about 15 hours at about 150°C, until all of the sulfur had dissolved and did not crystallize out again upon cooling. A dark red liquid was formed, which a thin-layer chromatogram showed to contain no free sulfur, and in which disulfides and tetrasulfides are dissolved as shown by mass spectrographic analysis.

reactant | bis-[γ-(triethoxysilyl)-propyl]-disulfide | 0.1 mole, 47.5 g | C(C)O[Si](CCCSSCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C18H42O6S2Si2
reactant | sulfur | 0.1 mole, 3.2 g | [S] | S
product | Bis-[γ-(triethoxysilyl)-propyl]-trisulfide | C(C)O[Si](CCCSSSCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C18H42O6S3Si2
